US05643931
1,4-Bis(4-formylphenoxy)butane (3.98 g) was dissolved in 10.5 ml of tetrahydrofuran-methanol (5:1), 1.23 g of sodium borohydride was added to the solution which was cooled on ice-water, and the resulting mixture was stirred for 1.5 hours at room temperature. Then, 100 ml of 1N hydrochloric acid was added and the mixture was again stirred at room temperature to collect the thus formed precipitate by filtration. The thus obtained crude product was washed with water and methanol in that order and dried under a reduced pressure to obtain 3.38 g of 1,4-bis(4-hydroxymethylphenoxy)butane.

reactant | 1,4-Bis(4-formylphenoxy)butane | 3.98 g | C(=O)C1=CC=C(OCCCCOC2=CC=C(C=C2)C=O)C=C1 | C18H18O4
reactant | sodium borohydride | 1.23 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran-methanol | 10.5 ml | O1C(CCC1)CO | C5H10O2
product | 1,4-bis(4-hydroxymethylphenoxy)butane | 3.38 g | OCC1=CC=C(OCCCCOC2=CC=C(C=C2)CO)C=C1 | C18H22O4
